US04810708
Dissolve 2-chloronicotinoyl chloride (0.10 mole) in CHCl3 (90 ml). Add the resulting solution to a 5° C. solution of triethylamine (0.10 mole) and an enamine, 1-(1-pyrrolidinyl)-1-cyclopentene (0.10 mole), dissolved in CHCl3 (90 ml). Allow C-acylation to proceed for 21 hrs., while the temperature of the reaction mixture rises to 25° after the second hour. Monitor the course of the reaction by thin-layer chromatography as needed. Wash the resulting solution with water, aqueous NaHCO3 solution, and with water. After drying, carefully evaporate solvent to obtain the enaminoketone, (2-chloro-3-pyridinyl)[2-(1-pyrrolidinyl)-1-cyclopenten-1-yl]methanone, m.p. 102.5°-104.0° C., after recrystallization from ethyl acetate. This compound is referred to in Examples 1 and 3 below as Compound 1.

reactant | 2-chloronicotinoyl chloride | 0.10 mole | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
reactant | triethylamine | 0.10 mole | C(C)N(CC)CC | C6H15N
reactant | 1-(1-pyrrolidinyl)-1-cyclopentene | 0.10 mole | N1(CCCC1)C1=CCCC1 | C9H15N
solvent | CHCl3 | 90 ml | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 90 ml | C(Cl)(Cl)Cl | CHCl3
product | (2-chloro-3-pyridinyl)[2-(1-pyrrolidinyl)-1-cyclopenten-1-yl]methanone | ClC1=NC=CC=C1C(=O)C1=C(CCC1)N1CCCC1 | C15H17ClN2O
